2173-03-31 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ACT continued to be high overnight so sheath was not drawn until 6am
   after givein DDAVP
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Promethazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-3-31**] 12:30 AM
   Fentanyl - [**2173-3-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-31**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 69 (66 - 71) bpm
   BP: 123/30(54) {85/19(35) - 123/40(54)} mmHg
   RR: 16 (9 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    454 mL
                                                                    121 mL
   PO:
             TF:
   IVF:
                                                                    454 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    454 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GENERAL: Elderly female in NAD.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: RR, Unable to hear clear S1. Soft S2 [**1-22**] SM at RUSB early
   peaking. radiating to carotids.
   LUNGS: CTAB, no crackles, wheezes or rhonchi anteriorly
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: lethargic but arousable.
   Labs / Radiology
   375 K/uL
   9.2 g/dL
   104 mg/dL
   8.9 mg/dL
   22 mEq/L
   4.9 mEq/L
   71 mg/dL
   102 mEq/L
   140 mEq/L
   28.7 %
   20.6 K/uL
        [image002.jpg]
                             [**2173-3-30**]  09:40 PM
                             [**2173-3-31**]  03:30 AM
   WBC
   21.0
   20.6
   Hct
   30.4
   28.7
   Plt
   366
   375
   Cr
   8.5
   8.9
   Glucose
   131
   104
   Other labs: PT / PTT / INR:17.1/30.7/1.5, CK / CKMB / Troponin-T:22//,
   ALT / AST:13/18, Alk Phos / T Bili:58/0.3, Differential-Neuts:91.2 %,
   Lymph:4.4 %, Mono:2.6 %, Eos:1.7 %, Ca++:10.3 mg/dL, Mg++:3.1 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   81yo F with h/o ESRD on HD, HTN, HL, acute CHF exacerbation 1 month
   ago, admitted from OSH with NSTEMI now s/p cath with DES in LAD and
   LMCA.
   # CORONARIES: S/P NSTEMI. Cath at OSH, 80% LAD stenosis.  Cath here two
   DES placed one to LAD distally and one to LM.  Unclear timing of NSTEMI
   and may have been on prior admission (see below)
   - Continue aspirin
   - Continue plavix X at least 1 year
   - f/u Lipid profile
   - Continue statin, beta blocker
   - Hold ACE in setting of worsening renal function
   - Wean nitro drip as able
   # PUMP:  Had EF 56% on adenosine stress test at OSH per report less
   than one month ago. In retrospect admission for "multifocal PNA" was
   more likely for acute CHF exacerbation. With trops elevated on this
   admission but CKs not more likely that she had an ischemic event on
   last admission leading to acute CHF and now the only enzyme elevated is
   troponin because 1) its half life is longer than CK and 2) she had
   renal failure
   - TTE today to assess pump function and WMA
   - Beta blocker as able
   - Monitor daily weights
   # RHYTHM: NSR currently but h/o AF.
   - will continue amiodarone
   - Not on coumadin because of history of GIB.
   - ASA for anti-coagulation
   - Will monitor on tele
   # HTN: Patient with h/o severe HTN and elevated pressures in cath lab
   so was started on nitro gtt.
   - Weaned nitro drip overnight
   - Consider changing PO metoprolol to IV for BP control
   - Avoid hydral as reflex tachycardia would be undesirable in setting of
   NSTEMI
   #. AMS: Multiple etiologies for AMS but most likely are: 1. multiple
   sedating medications in both caths today 2. No dialysis since Saturday
   (longest she's ever gone without dialysis).
   - Will keep NPO for now
   - Will check LFTs although reportedly WNL at OSH so unlikely ALF as
   cause of AMS
   - Will monitor overnight and plan for dialysis in am
   - If MS does not improve with dialysis and time for sedation to wear
   out will consider head CT to eval for other pathology.
   # Chronic renal failure:  Continue HD on T, [**Last Name (un) **], Sat schedule
   . Renal aware
   #. GERD: Will continue PPI
   #. HL: will continue statin
   FEN: Cardiac diet post cath
   ACCESS: peripheral line in foot and Right IJ triple lumen which was
   placed at OSH [**2173-3-30**], a-line
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Pain management with  nothing for now given sedation/AMS
   -Bowel regimen with  colace, lactulose per home regimen
   CODE: DNR/DNI - confirmed with daughter. Reversed only for cath.
   DISPO: Cardiology floor service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-3-30**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-04-02 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2173-4-1**] 11:16 PM
   pt c/o of SOB and having feeling of a "heart attack"
 EKG - At [**2173-4-1**] 11:45 PM
   .
   [**2173-4-1**]:
   - Renal to dialyze today to get back on T,Th, Sat schedule, added on
   iron studies (anemia of chronic disease)
   - Psych consulted for depression, pt reports she wants to die - Psych
   thinks she has delirium/dementia - avoid opiates, restart zoloft
   - Speech and swallow consulted for subjective dysphagia
   - Social work consulted
   - Called out to [**Hospital Ward Name 383**] 3 - but then pressures dropped to the 60s during
   HD as needle came out of graft bled at least one unit, Hct 21, gave 1L
   saline up to SBP in the 110s.
   - Hct 21.7, transfused one unit (consent received by daughter)
   - Daughter reported that pts mental status normally is very sharp, but
   depression is an ongoing issue.
   - At 10pm BP up to 190s, gave additional 12.5mg of metoprolol
   - At 11pm BP up to 230s, gave SL nitro with no decrease, put back on
   nitro drip improved
   - Pt reported feeling SOB, nausea, CP, gave zyprexa and zofran  EKG
   showed ST depressions, CEs flat
   - Gave 5mg of hydral this AM for persistently elevated BPs
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Promethazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 5.01 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2173-4-1**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 75 (63 - 96) bpm
   BP: 201/50(88) {104/22(50) - 231/126(137)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 44.8 kg (admission): 45 kg
             Total In:
                                                                    501 mL
                                                                    188 mL
   PO:
                                                                    140 mL
             TF:
   IVF:
                                                                     11 mL
                                                                    188 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GENERAL: Elderly female in NAD.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: RR, Unable to hear clear S1. Soft S2 [**1-22**] SM at RUSB early
   peaking. radiating to carotids.
   LUNGS: CTAB, no crackles, wheezes or rhonchi anteriorly
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: lethargic but arousable.
   Labs / Radiology
   368 K/uL
   8.9 g/dL
   198 mg/dL
   3.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   25 mg/dL
   102 mEq/L
   142 mEq/L
   28.1 %
   19.2 K/uL
        [image002.jpg]
                             [**2173-3-30**]  09:40 PM
                             [**2173-3-31**]  03:30 AM
                             [**2173-4-1**]  03:39 AM
                             [**2173-4-1**]  02:35 PM
                             [**2173-4-1**]  11:37 PM
                             [**2173-4-2**]  05:15 AM
   WBC
   21.0
   20.6
   10.7
   19.2
   Hct
   30.4
   28.7
   25.7
   21.8
   29.1
   28.1
   Plt
   366
   375
   322
   368
   Cr
   8.5
   8.9
   5.2
   3.8
   TropT
   0.87
   0.89
   Glucose
   131
   104
   94
   198
   Other labs: PT / PTT / INR:17.7/32.2/1.6, CK / CKMB /
   Troponin-T:28//0.89, ALT / AST:13/18, Alk Phos / T Bili:58/0.3,
   Differential-Neuts:91.2 %, Lymph:4.4 %, Mono:2.6 %, Eos:1.7 %, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   81yo F with h/o ESRD on HD, HTN, HL, acute CHF exacerbation 1 month
   ago, admitted from OSH with NSTEMI now s/p cath with DES in LAD and
   LMCA.
   # CORONARIES: S/P NSTEMI. Cath at OSH, 80% LAD stenosis.  Cath here two
   DES placed one to LAD distally and one to LM.  Unclear timing of NSTEMI
   and may have been on prior admission (see below).  Had ST depressions
   in the setting of hypertensive urgency last night, most likely demand
   ischemia.
   - Continue aspirin
   - Continue plavix X at least 1 year
   - Continue statin, beta blocker
   # PUMP:  Had EF 56% on adenosine stress test at OSH per report less
   than one month ago. In retrospect admission for "multifocal PNA" was
   more likely for acute CHF exacerbation. With trops elevated on this
   admission but CKs not more likely that she had an ischemic event on
   last admission leading to acute CHF and now the only enzyme elevated is
   troponin because 1) its half life is longer than CK and 2) she had
   renal failure  EKG shows LVH
   - TTE here showed mild LVH, diastolic dysfunction, no regional wall
   motion abnormalities.
   - continue beta blocker
   - Monitor daily weights
   # RHYTHM: NSR currently but h/o AF.
   - continue amiodarone
   - Not on coumadin because of history of GIB.
   - ASA for anti-coagulation
   - Will monitor on tele
   # HTN: Patient with h/o severe HTN and elevated pressures in cath lab
   so was started on nitro gtt.   As she did not complete HD yesterday and
   required a blood transfusion overnight, her blood pressures were
   significantly elevated again.  Attempted increase in PO medications,
   however had to restart nitro drip, with not much result.  Attempted
   hydral this AM.  Will likely need HD today
   - continue metoprolol
   - restart home nifedipine
   # AMS:  Pt has severe depression.  Most likely her depression is
   causing a pseudo dementia on top of ICU psychosis.  Attempted zyprexa
   last night with not much effect.  Restarted home Zoloft.  Consulted
   Psych yesterday.  SW to see her today
   # Chronic renal failure:  Continue HD, (at home on T, [**Last Name (un) **], Sat
   schedule)
   # GERD: Will continue PPI
   # HL: will continue statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-3-30**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I reviewed dat an d course overnight.BP is an issue and I Examined Pt
   and agree with Dr.[**Last Name (STitle) **]
s plan of Rx.
   Spent 35mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2173-4-2**] 11:45 ------